US06342504B1
To 2,3-dimethoxy-bromobenzene (8.2 g, 0.45 moles) in 50 mL of toluene was added AlCl3 (22.1 g, 0.178 moles). The reaction mixture was refluxed for 3 hours, cooled, poured into 800 mL of water, and extracted with 800 mL of ether. The ether extracts were dried over magnesium sulfate, filter and the solvent removed under reduced pressure. The residue was chromatographed on silica gel, eluted with methylene chloride and the fraction were combined and evaporated under reduced pressure to yield 2,3-dihydroxy-bromobenzene (6.1 g, 73% yield).

reactant | 2,3-dimethoxy-bromobenzene | 0.45 moles, 8.2 g | COC1=C(C=CC=C1OC)Br | C8H9BrO2
reactant | AlCl3 | 0.178 moles, 22.1 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | water | 800 mL | O | H2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2,3-dihydroxy-bromobenzene | 6.1 g, 73% yield | OC1=C(C=CC=C1O)Br | C6H5BrO2
